US09238640B2
A mixture of 4-fluorobenzaldehyde (1.56 g, 12.6 mmol), 1-(1,4-diazepan-1-yl)ethanone (1.5 g, 10.5 mmol), and K2CO3 (1.74 g, 12.6 mmol) in DMF (10 mL) were heated at 120° C. for 20 hours. The mixture was cooled to room temperature and diluted with water. The mixture was extracted with ethyl acetate and the organic phase washed with brine, dried over anhydrous MgSO4, filtered, and concentrated. The residue was purified by flash chromatography on silica gel, eluting with 50% ethyl acetate/hexanes to 100% ethyl acetate to 10% methanol/ethyl acetate, to afford 4-(4-acetyl-1,4-diazepan-1-yl)benzaldehyde (1.8 g, 70%).

reactant | 4-fluorobenzaldehyde | 12.6 mmol, 1.56 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 1-(1,4-diazepan-1-yl)ethanone | 10.5 mmol, 1.5 g | N1(CCNCCC1)C(C)=O | C7H14N2O
reactant | K2CO3 | 12.6 mmol, 1.74 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(4-acetyl-1,4-diazepan-1-yl)benzaldehyde | 1.8 g, 70% | C(C)(=O)N1CCN(CCC1)C1=CC=C(C=O)C=C1 | C14H18N2O2
